US07253286B2
Palladium hydroxide (20 mg) was added to solution of 6-chloro-4-(4-nitrophenoxy)pyrimidine (300 mg) in an ethyl acetate (10 ml)-methanol (10 ml) mixed solvent, and the mixture was stirred for 13 hours at room temperature under a hydrogen atmosphere at normal pressure. The reaction solution was filtered, the filtrate was concentrated, and the residue was passed through NH silica gel (Fuji Silysia Chemical). Elution was performed with a solvent (ethyl acetate:hexane=1:2) to obtain 70 mg of 4-(4-aminophenoxy)pyrimidine. The title compound (107 mg) was obtained from the obtained 4-(4-aminophenoxy)pyrimidine (70 mg) and 4-methoxyphenyl isocyanate, in the same manner as Example 10.

reactant | 6-chloro-4-(4-nitrophenoxy)pyrimidine | 300 mg | ClC1=CC(=NC=N1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium hydroxide | 20 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 10 ml | CO | CH4O
product | 4-(4-aminophenoxy)pyrimidine | 70 mg | NC1=CC=C(OC2=NC=NC=C2)C=C1 | C10H9N3O
